US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-N,N-diphenyl-1-piperidinebutanamide monohydrochloride hemihydrate
A mixture of 6.1 g (0.020 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 6.8 g (0.025 mole) of 4-chloro-N,N-diphenylbutanamide, 8.5 g (0.080 mole) of anhydrous sodium carbonate and 0.3 g (0.002 mole) of potassium iodide in 100 mL of N,N-dimethylformamide was heated on a steam bath for 16 h. The mixture was poured into 2 L of water and extracted thrice with 250 mL portions of ethyl acetate. The ethyl acetate fractions were combined, washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give a viscous oil. The oil was purified by column chromatography using 250 g of silica gel on a 65 cm×4 cm column, eluted with ethyl acetate. The fractions containing the desired product were combined and concentrated under reduced pressure to give a glass. The glass was converted to the hydrochloric acid salt and the solid was recrystallized from ethyl acetate/ethyl ether to yield 3.3 g (29%) of white solid, mp 130°-132° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.020 mole, 6.1 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 4-chloro-N,N-diphenylbutanamide | 0.025 mole, 6.8 g | ClCCCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16ClNO
reactant | sodium carbonate | 0.080 mole, 8.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.002 mole, 0.3 g | [I-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 2 L | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-N,N-diphenyl-1-piperidinebutanamide monohydrochloride hemihydrate | 3.3 g, 29% | O.Cl.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1=CC=C(C=C1)F.FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)(O)C1CCN(CC1)CCCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1.Cl | InChI=1S/2C34H34F2N2O2.2ClH.H2O/c2*35-29-17-13-26(14-18-29)34(40,27-15-19-30(36)20-16-27)28-21-24-37(25-22-28)23-7-12-33(39)38(31-8-3-1-4-9-31)32-10-5-2-6-11-32;;;/h2*1-6,8-11,13-20,28,40H,7,12,21-25H2;2*1H;1H2
